US06352993B1
Step 2: 5,6-dimethyl-2-(4-fluorophenylamino)-4-(5,8-dimethoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.40 ml, 4.13 mmol) and triethylamine(0.58 ml, 4.13 mmol) were added to a solution of 5,6-dimethyl-2-chloro-4-(5,8-dimethoxy-1-methyl-1,2,3,4tetrahydroisoquinolin-2-yl)pyrimidine (1.0 g, 2.87 mmol) in dimethylformamide(5 ml), 0.67 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25. (Yield: 51.2%)

reactant | 4-fluoroaniline | 4.13 mmol, 0.40 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 4.13 mmol, 0.58 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6-dimethyl-2-chloro-4-(5,8-dimethoxy-1-methyl-1,2,3,4tetrahydroisoquinolin-2-yl)pyrimidine | 2.87 mmol, 1.0 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=C(C=CC(=C2CC1)OC)OC)C | C18H22ClN3O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(5,8-dimethoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.67 g, Yield: 51.2% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=C(C=CC(=C2CC1)OC)OC)C | InChI=1S/C24H27FN4O2.ClH/c1-14-15(2)26-24(27-18-8-6-17(25)7-9-18)28-23(14)29-13-12-19-20(30-4)10-11-21(31-5)22(19)16(29)3;/h6-11,16H,12-13H2,1-5H3,(H,26,27,28);1H
